US09427475B2
Step A: benzyl 6-[(2,5-dioxopyrrolidin-1-yl)oxy]-6-oxohexanoate
To a solution of 6-(benzyloxy)-6-oxohexanoic acid (3.3 g, 13.97 mmol) in DMF (50 mL) at 0° C. was added TSTU (4.3 g, 14.28 mmol) and DIPEA (2.5 mL, 14.31 mmol). After stirring at 0° C. for 1 hour, the reaction mixture was partitioned between Et2O and water. The organic layer was separated and the aqueous layer was further extracted with ether (2×150 mL). The combined organic phase was washed with brine, dried over Na2SO4, filtered and concentrated to afford the title compound. UPLC Method B: calculated for C17H19NO6 333.12, observed m/e: 334.10 [M+1]; Rt=3.75 min. 1H NMR (CDCl3) δ 7.40-7.30 (5H, m), 5.10 (2H, s), 2.80 (4H, s), 2.62-2.58 (2H, m), 2.41-2.37 (2H, m), 1.80-1.72 (4H, m).

reactant | 6-(benzyloxy)-6-oxohexanoic acid | 13.97 mmol, 3.3 g | C(C1=CC=CC=C1)OC(CCCCC(=O)O)=O | C13H16O4
reactant | TSTU | 14.28 mmol, 4.3 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | DIPEA | 14.31 mmol, 2.5 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | benzyl 6-[(2,5-dioxopyrrolidin-1-yl)oxy]-6-oxohexanoate | O=C1N(C(CC1)=O)OC(CCCCC(=O)OCC1=CC=CC=C1)=O | C17H19NO6
